US04606757
6-Ethoxy-2-(diphenoxymethyl)pyridine
To 30.0 ml of ethanol was added 1.10 g of sodium pellets. After the sodium had dissolved, 10.14 g of 6-chloro-2-(diphenoxymethyl)pyridine in 50 ml of DMSO was added dropwise. The mixture was heated to 80° C. and held there for 24 hours. The reaction was considered complete as seen by the NMR. The reaction mixture was cooled, diluted with water and extracted with methyl chloroform. The organic layer was separated and washed with water, dried over anhydrous magnesium sulfate, filtered and the solvent removed by evaporation under reduced pressure. The crude product was then distilled and the portion which distilled over at 157°-165° C. at 0.05 millimeters of mecury was collected. The above indicated product was obtained in a yield of 8.95 g and was found to have a refractive index of n26/d=1.5768. The NMR and Infrared Spectra (IR) were consistent with the structure for the above compound. Upon analysis, the compound was found to have carbon, hydrogen and nitrogen contents of 74.56, 6.01 and 4.19 percent, respectively, as compared with the theoretical contents of 74.77, 5.92 and 4.36 percent, respectively, as calculated for the above named compound (Compound 2).

reactant | ethanol | 30.0 ml | C(C)O | C2H6O
reactant | sodium | 1.10 g | [Na] | Na
reactant | 6-chloro-2-(diphenoxymethyl)pyridine | 10.14 g | ClC1=CC=CC(=N1)C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H14ClNO2
reactant | hydrogen | [H][H] | H2
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-Ethoxy-2-(diphenoxymethyl)pyridine | C(C)OC1=CC=CC(=N1)C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C20H19NO3
